US06747024B1
31.1) N-(2-anilinophenyl)-N′-[(3S)-2-oxotetrahydro-3-furanyl]urea
A solution of 1.48 g (8.15 mmoles) of (S)-2-amino-4-butyrolactone hydrobromide and 3.12 ml (17.9 mmoles) of diisopropylethylamine in 80 ml of anhydrous CH2Cl2 is added slowly (4 hours) into a three-necked flask containing a solution of 0.89 g (3 mmoles) of triphosgene in 45 ml of anhydrous CH2Cl2, under an inert atmosphere. After stirring for a further 15 minutes, a solution of 1.5 g (8.15 mmoles) of N1-phenyl-1,2-benzenediamine and 3.12 ml (17.9 mmoles) of diisopropylethylamine in 45 ml of anhydrous CH2Cl2 is added in one go. The reaction mixture is then heated for 5 hours at 60° C. After concentration to dryness under vacuum, the residue is divided between 50 ml of AcOEt and 50 ml of water. After stirring and decanting, the organic phase is washed successively with 50 ml of water and 50 ml of salt water. The organic solution is then dried over Na2SO4, filtered and concentrated under vacuum. The evaporation residue is then purified on a silica column (eluent: Heptane/AcOEt: 1/2). Pink solid.

reactant | (S)-2-amino-4-butyrolactone hydrobromide | 8.15 mmoles, 1.48 g | Br.N[C@@H]1C(=O)OCC1
reactant | diisopropylethylamine | 17.9 mmoles, 3.12 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 3 mmoles, 0.89 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N1-phenyl-1,2-benzenediamine | 8.15 mmoles, 1.5 g | C1(=CC=CC=C1)NC=1C(=CC=CC1)N | C12H12N2
reactant | diisopropylethylamine | 17.9 mmoles, 3.12 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 45 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 45 ml | C(Cl)Cl | CH2Cl2
product | N-(2-anilinophenyl)-N′-[(3S)-2-oxotetrahydro-3-furanyl]urea | N(C1=CC=CC=C1)C1=C(C=CC=C1)NC(=O)N[C@@H]1C(OCC1)=O | C17H17N3O3
